US09145441B2
Compound 96d. (E)-4-{2-[1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-quinazolin-7-yl}-2,2-dimethyl-but-3-enoic acid
A solution of (E)-4-{2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-quinazolin-7-yl}-2,2-dimethyl-but-3-enoic acid methyl ester (1.07 g, 2.58 mmol) in tetrahydrofuran (50 mL) was cooled to 0° C. before adding an aqueous solution of lithium hydroxide (1 M, 8 mL, 8 mmol). The reaction mixture was allowed to warm to room temperature and was stirred for 20 h. The reaction mixture was diluted with water (50 mL) then washed with diethyl ether (60 mL) before acidifying to pH 2 with a saturated solution of potassium bisulfate. The resulting mixture was extracted with diethyl ether (3×30 mL). The extract was dried over anhydrous sodium sulfate, filtered and evaporated to yield the title product (0.605 g, 59%) as a yellow gum. 1H NMR (300 MHz, CDCl3) δ 0.06 (s, 3H), 0.08 (s, 3H), 0.90 (s, 9H), 1.53 (s, 6H), 1.64 (d, J=6.5 Hz, 3H), 5.22 (q, J=6.5 Hz, 1H), 6.64-6.81 (m, 2H), 7.73, 7.87 (ABq, J=8.5 Hz, 2H), 7.99 (s, 1H), 9.40 (s, 1H). LCMS (m/z) 401.2 [M+H], Tr=3.43 min.

reactant | (E)-4-{2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-quinazolin-7-yl}-2,2-dimethyl-but-3-enoic acid methyl ester | 2.58 mmol, 1.07 g | COC(C(\C=C\C1=CC=C2C=NC(=NC2=C1)C(C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C23H34N2O3Si
reactant | lithium hydroxide | 8 mmol, 1 M, 8 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (E)-4-{2-[1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-quinazolin-7-yl}-2,2-dimethyl-but-3-enoic acid | 0.605 g, 59% | C(C)(C)(C)[Si](OC(C)C1=NC2=CC(=CC=C2C=N1)/C=C/C(C(=O)O)(C)C)(C)C | C22H32N2O3Si
